US05078750
Asperuloside (1.0 g) was dissolved in distilled water (10 ml) and adjusted to pH=10 by adding a small amount of a saturated solution of BaO in methanol. This solution was allowed to stand for a few minutes to become cloudy white, which, after neutralization and concentration, was treated by silica gel column chromatography (Waco Gel C-300, 50 g, solvent: chloroform-methanol system). Silica gel column chromatography gave deacetyl asperulosidic acid methyl ester having Rf value=0.79 (chloroform-methanol-water=6:6:1, visualized with 50(%)-sulfuric acid) on TLC, as white needles (1.80 mg).

reactant | Asperuloside | 1.0 g | CC(=O)OCC1=C[C@H]2[C@H]3[C@@H]1[C@@H](OC=C3C(=O)O2)O[C@H]4[C@@H]([C@H]([C@@H]([C@H](O4)CO)O)O)O | C18H22O11
reactant | methanol | CO | CH4O
solvent | water | 10 ml | O | H2O
product | deacetyl asperulosidic acid methyl ester | COC(=O)C1=CO[C@H]([C@H]2[C@@H]1[C@H](C=C2CO)O)O[C@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CO)O)O)O | C17H24O11
